US08183050B2
Lysophospholipase (EC 3.1.1.5) was obtained from Asachi Chemical Co. (Tokyo, Japan). Glycerophosphorylcholine phosphodiesterase (GPCP; EC 3.1.4.2), choline oxidase (COD; EC 1.1.3.17), peroxidase (EC 1.11.1.7), sodium N-ethyl-N-(2-hydroxy-3-sulfopropyl)-3-methylaniline dehydrate (TOOS) and 4-aminoantipyrine were purchased from Aldrich (Milwaukee, Wis.). 1-Palmitoyl-2-hydroxy-phosphatidylcholine was obtained from Avanti Polar-Lipids Inc. (Alabaster, Ala.). 10-acetyl-3,7-dihydroxyphenoxazine was obtained from Invitrogen (Carlsbad, Calif.).

reactant | Glycerophosphorylcholine | C[N+](C)(C)CCOP(=O)([O-])OC[C@@H](CO)O | C8H20NO6P
reactant | GPCP | C1=NC2=C(N1[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(CP(=O)(O)[O-])[O-])O)O)NC(=NC2=O)N.[Na+].[Na+]
reactant | choline | OCC[N+](C)(C)C
reactant | sodium N-ethyl-N-(2-hydroxy-3-sulfopropyl)-3-methylaniline | C(C)N(C1=CC(=CC=C1)C)CC(CS(=O)(=O)O)O.[Na]
reactant | TOOS | CCN(CC(CS(=O)(=O)[O-])O)C1=CC=CC(=C1)C.[Na+]
reactant | 4-aminoantipyrine | CC1=C(C(=O)N(N1C)C=2C=CC=CC2)N | C11H13N3O
reactant | Ala | N[C@@H](C)C(=O)O | C3H7NO2
product | 10-acetyl-3,7-dihydroxyphenoxazine | C(C)(=O)N1C2=CC=C(C=C2OC=2C=C(C=CC12)O)O | C14H11NO4
